US07696223B2
a) 2,3-Dibromo-1-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared similarly according to a reaction sequence in Example 138 steps (a) and (b) for the synthesis of 2,3-dibromo-4-hydroxy-1-(4-methoxy-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester starting from 4-fluoroaniline. The title compound, ESI MS (m/z): 457 (M+H)+.

reactant | 2,3-dibromo-4-hydroxy-1-(4-methoxy-phenyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)C2=CC=C(C=C2)OC)O | C17H14Br2N2O4
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 2,3-Dibromo-1-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)C2=CC=C(C=C2)F)O | C16H11Br2FN2O3
